// "spectre" description for "ATSim", "L1_read_ctrl_rev3", "spectre2" 


simulator lang=spectre

subckt L1_read_ctrl_rev3 OutFIFOReq ReadFromL1Ack ReadWBFromL1Ack L1RAck L1RE \
        L1RdRegAck L1RdRegReq L1WBRegAck L1WBRegReq OutFIFOAck ReadFromL1Req \
        ReadWBFromL1Req

  I0 (p1 ReadFromL1Req L1RdRegAck) nand_1x
  I1 (p2 ReadWBFromL1Req L1RdRegAck) nand_1x
  I2 (p3 ReadFromL1Req ReadFromL1Req) nand_1x 
  I3 (p4 ReadWBFromL1Req ReadWBFromL1Req) nand_1x
  I4 (p5 OutFIFOAck OutFIFOAck) nand_1x
  I5 (p6 L1RAck_n1 L1RdRegAck y1) nand3_1x
  I6 (L1RAck_n1 L1RAck) inv_1x 
  I7 (p7 L1WBRegAck L1WBRegAck) nand_1x
  I8 (p8 L1RAck y0) nand_1x
  I9 (p9 L1RdRegAck y0) nand_1x
  I10 (p10 ReadFromL1Req_n1 L1RAck OutFIFOAck_n1 y0 y1) nand5_1x
  I11  (ReadFromL1Req_n1 ReadFromL1Req) inv_1x
  I12 (OutFIFOAck_n1 OutFIFOAck) inv_1x 
  I13 (p11 L1RAck y0_n1) nand_1x
  I14 (y0_n1 y0) inv_1x
  I15 (p12 ReadWBFromL1Req_n1 L1RAck L1WBRegAck_n1 y0_n1 y1) nand5_1x
  I16 (ReadWBFromL1Req_n1 ReadWBFromL1Req) inv_1x 
  I17 (L1WBRegAck_n1 L1WBRegAck) inv_1x 
  I18 (p13 ReadFromL1Req_n1 L1RdRegAck y0_n1) nand3_1x
  I19 (p14 OutFIFOAck_n1 L1WBRegAck_n1 y1) nand3_1x
  I20 (p15 L1RAck_n1 L1RdRegAck_n1 OutFIFOAck_n1 L1WBRegAck_n1) nand4_1x
  I21 (L1RdRegAck_n1 L1RdRegAck) inv_1x 
  I22 (y0 p1 p5 p8 p9) nand4_1x
  I23 (y1 p14 p15) nand_1x
  I24 (L1RE p1 p2 p6) nand3_1x
  I25 (ReadFromL1Ack p1 p5 p8 p9) nand4_1x
  I26 (ReadWBFromL1Ack p7 p11 p13) nand3_1x
  I27 (L1RdRegReq p3 p4 p6) nand3_1x
  I28 (OutFIFOReq p10 p10) nand_1x
  I29 (L1WBRegReq p12 p12) nand_1x

ends L1_read_ctrl_rev3